US06967201B1
A mixture of 0.42 gm 1-(5-(tert-butyldimethylsilyloxymethyl)benzofur-7-yl)-4-tert-butoxycarbonylpiperazine and excess tetrabutylammonium fluoride was stirred in tetrahydrofuran for 30 minutes. The reaction mixture was then diluted with ethyl acetate and washed three times with dilute aqueous sodium bicarbonate. The remaining organics were dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 5:2 hexane:ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.28 gm (89%) 1-(5-(hydroxymethyl)benzofur-7-yl)-4-tert-butoxycarbonylpiperazine. This material was dissolved in trifluoroacetic acid and the resulting solution stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue subjected to silica gel chromatography, eluting with dichloromethane containing 10% methanol and a trace of ammonia. Fractions containing product were combined and concentrated under reduced pressure to provide 1-(5-hydroxymethyl)benzofur-7-yl)piperazine. This compound was treated with hydrogen chloride to provide the title compound as a white solid.

reactant | 1-(5-(tert-butyldimethylsilyloxymethyl)benzofur-7-yl)-4-tert-butoxycarbonylpiperazine | 0.42 gm | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C2=C(C=CO2)C1)N1CCN(CC1)C(=O)OC(C)(C)C | C24H38N2O4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-(hydroxymethyl)benzofur-7-yl)-4-tert-butoxycarbonylpiperazine | 0.28 gm, 89% | OCC=1C=C(C2=C(C=CO2)C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N2O4
